* WARNING : please consider following remarks before usage *
* 1) All models are a tradeoff between accuracy and complexity (ie. simulation 
*    time).
* 2) Macromodels are not a substitute to breadboarding, they rather confirm the
*    validity of a design approach and help to select surrounding component values.
*
* 3) A macromodel emulates the NOMINAL performance of a TYPICAL device within
*    SPECIFIED OPERATING CONDITIONS (ie. temperature, supply voltage, etc.).
*    Thus the macromodel is often not as exhaustive as the datasheet, its goal 
*    is to illustrate the main parameters of the product.
*
* 4) Data issued from macromodels used outside of its specified conditions 
*    (Vcc, Temperature, etc) or even worse: outside of the device operating 
*    conditions (Vcc, Vicm, etc) are not reliable in any way.
*-----------------------------------------------------------------------------------------
** Standard Linear Ics Macromodels, 1999. 
** CONNECTIONS :
* N1 INVERTING INPUT
* N2 NON-INVERTING INPUT
* N3 OUTPUT
* N4 POSITIVE POWER SUPPLY
* N5 NEGATIVE POWER SUPPLY
*
.SUBCKT TS97x N1 N2 N3 N4 N5
*****************************
CCC N119 N19 16p
CC30 N5 N3 130p
CCIP N2 N5 1p
CCIN N1 N5 1p
CCPS N11 N15 100p
EEIP N10 N5 N2 N5 1
EEIN N16 N5 N1 N5 1
RRAN N119 N5 260K
RR28 N19 N23 6
RRAP N119 N4 260K
RR2N N5 N19 10Meg
RR2P N19 N4 10Meg
RRIP N11 N10 8.12
RRIS N11 N15 220
RRIN N15 N16 8.12
DDOPM N19 N22 MDTH 400p
DDONM N21 N19 MDTH 400p
DDCOPY N504 N505 MDTH 400E-9
DDINR N15 N18 MDTH 400E-12
DDOP N19 N25 MDTH 400p
DD39 N506 N504 MDTH 400E-9
DDON N24 N19 MDTH 400p
DDIN N15 N14 MDTH 400p
DDIP N11 N12 MDTH 400p
DDINN N17 N13 MDTH 400E-12
VVOFN N13 N14 0
VVINM N5 N27 60
VVIPM N28 N4 76
VVOFP N12 N13 -1m
VVCOPYP N505 0 0
VVIN N17 N5 900m
VVOUT N3 N23 0
VVIP N4 N18 1.4
VVINT2 N503 0 5
VVINT1 N500 0 5
VVN N502 0 0
VVP N501 0 0
RVVN N501 0 10
RVVP N502 0 10
VVCOPYN 0 N506 0
VVOP N4 N25 1
VVON N24 N5 1.025
IIPOL N13 N5 63.6u
FFGM1P N119 N5 VVOFP 1
FFGM1N N119 N5 VVOFN 1
FFCOPY N503 N504 VVOUT 1
FFCP N4 N5 VVOFP 33.8
FFIBP N2 N5 VVOFP 7.85e-3
FFIBN N5 N1 VVOFN 7.85e-3
FFCN N5 N4 VVOFN 33.8
GG2P N19 N5 N119 N5 1.92e-2
GGCONVP N500 0 N119 N4 19.38
GGCONVN N500 0 N119 N5 19.38
GG2N N19 N5 N119 N4 1.92e-2
HHONM N21 N27 VVOUT 625
HHOPN N22 N28 VVOUT 62500
.MODEL MDTH D IS=1E-8 KF=2.664234E-16 CJO=10F
F2PP N19 N5 POLY(2) VVCOPYP VVP 0 0 0 0 0.5 
F2PN N19 N5 POLY(2) VVCOPYP VVN 0 0 0 0 0.5
.ENDS ;TS97x